US04835152
Preparation of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
A mixture of 8.80 g (0.03 moles) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine, 5.675 g (0.15 moles) of sodium borohydride and 80 ml of pyridine is stirred on a water bath heated to boiling, for 5 hours. When the reaction mixture is cool, 90 ml of water is added to it, then, under ice-cooling, 260 ml of an aqueous hydrochloric acid solution containing 110 ml of concentrated hydrochloric acid are added, and thereafter 115 ml of 40% aqueous sodium hydroxide solution are dropped to the reaction mixture. On adding the water, hydrogen evolution occurs, on adding the base the aimed compound separates in the form of an oil containing pyridine. The mixture is then extracted with benzene, the benzene phase is shaken with water, dried, clarified with activated charcoal and evaporated under reduced pressure. The residue is taken up in 50 ml of water, the crude product is filtered off, washed 5 times with 10 ml of water, dried at 50°-60° C., recrystallized from 16 ml of 50% aqueous ethanol and finally the crystal water is removed at 100°-105° C. under reduced pressure.

reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 0.03 moles, 8.80 g | NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O2
reactant | sodium borohydride | 0.15 moles, 5.675 g | [BH4-].[Na+]
reactant | hydrochloric acid | 260 ml | Cl | ClH
reactant | hydrochloric acid | 110 ml | Cl | ClH
reactant | sodium hydroxide | 115 ml | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | water | O | H2O
solvent | water | 90 ml | O | H2O
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)C | C17H17N3O2
